US07745452B2
To a solution of (2-amino-5-fluorophenyl)(phenyl)methanone (6.60 g, 30.67 mmol) in CH2Cl2 (60 mL) was added carbonyldiimidazole (6.96 g, 42.93 mmol). The reaction was heated to 45° C. After 16 h at 45° C., the reaction was cooled to ambient temperature and the precipitate isolated by vacuum filtration and washed with fresh CH2Cl2 to give N-(2-benzoyl-4-fluorophenyl)-1H-imidazole-1-carboxamide as a white solid. 1H NMR (CDCl3, 400 MHz) 8.91 (s, NH); 7.47 (m, 3H, ArH); 7.25 (m, 1H, ArH); 7.18 (m, 4H, ArH); 6.99 (m, 1H, ArH); 6.95 (s, 1H, ArH); 6.53 (m, 1H, ArH); MS (Electrospray): m/z 332.1 (M+Na).

reactant | (2-amino-5-fluorophenyl)(phenyl)methanone | 30.67 mmol, 6.60 g | NC1=C(C=C(C=C1)F)C(=O)C1=CC=CC=C1 | C13H10FNO
reactant | carbonyldiimidazole | 42.93 mmol, 6.96 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | N-(2-benzoyl-4-fluorophenyl)-1H-imidazole-1-carboxamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)F)NC(=O)N1C=NC=C1 | C17H12FN3O2
